US04639441
p-Nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate
Following the procedure of Preparation 15, but using p-nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)-acetate (188 mg), hexamethyldisilazane (232 μl), butyllithium (0.68 ml), carbon disulphide (50 μl), and bromoacetyl bromide (48 μl), 108 mg of the desired product were obtained as an oily substance.

reactant | p-nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)-acetate | 188 mg | COC1C(N(C1SC)CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H16N2O6S
reactant | hexamethyldisilazane | 232 μl | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | 0.68 ml | C(CCC)[Li]
reactant | bromoacetyl bromide | 48 μl | BrCC(=O)Br | C2H2Br2O
reactant | carbon disulphide | 50 μl | C(=S)=S | CS2
product | p-Nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate | 108 mg | COC1C(N(C1SC)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C1SCC(S1)=O)=O | C17H16N2O7S3
